US04772600
4-[[[(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]amino]butanoic acid hydrate [1:0.5]
A mixture of 4-[[(2-(3chlorophenyl)-3H-imidazo[4,5-b]pyridine-3yl]acetyl]amino]butanoic acid ethyl ester (2.4 g, 0.006 mole) and potassium hydroxide (0.5 g) in 100 ml of ethanol was heated at reflux for 2 hrs. The reaction mixture was evaporated to dryness. The residue was dissolved in water, filtered, and the filtrate was acidified with acetic acid. The precipitate, which had formed, was collected by filtration, washed with water, and dried. The solid was recrystallized from ethanol-water, collected by filtration, washed with water, and dried under high vacuum at 78° C. over 2 days to give 0.93 g (42%), mp 207°-8° C.

reactant | 4-[[(2-(3chlorophenyl)-3H-imidazo[4,5-b]pyridine-3yl]acetyl]amino]butanoic acid ethyl ester | 0.006 mole, 2.4 g | C(C)OC(CCCNC(CN1C(=NC=2C1=NC=CC2)C2=CC(=CC=C2)Cl)=O)=O | C20H21ClN4O3
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[[[(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]amino]butanoic acid hydrate | O.ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCCC(=O)O | InChI=1S/C18H17ClN4O3.H2O/c19-13-5-1-4-12(10-13)17-22-14-6-2-9-21-18(14)23(17)11-15(24)20-8-3-7-16(25)26;/h1-2,4-6,9-10H,3,7-8,11H2,(H,20,24)(H,25,26);1H2
